US03962272
Ethyl 5-Benzoyl-1H-tetrazole-1-acetate
A mixture of benzoyl cyanide (5.1 grams, 39 mmol.) and ethyl azidoacetate (5.0 grams, 39 mmol.) was heated at 105°C. for 20 hours. The solution was cooled. The crystalline product [6.5 g. (64 percent), m.p. 63°-67°C.] was separated and washed with a mixture of ethyl ether and hexane. The yield of the title product was 6.5 grams (64 percent of theoretical). The melting point was 63°-67°C. The analysis was as follows:

reactant | benzoyl cyanide | 39 mmol, 5.1 grams | C(C1=CC=CC=C1)(=O)C#N | C8H5NO
reactant | ethyl azidoacetate | 39 mmol, 5.0 grams | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
product | Ethyl 5-Benzoyl-1H-tetrazole-1-acetate | C(C1=CC=CC=C1)(=O)C1=NN=NN1CC(=O)OCC | C12H12N4O3
